US06444694B1
(E)-2-[2-(3,4-Dimethoxyphenyl)-vinyl]-5-nitro-1H-benzoimidazole
A mixture of 4-nitro-1,2-phenylenediamine (1.2 g; 8 mmol) and methyl-(3,4-dimethoxy)-cinnamoimidate hydrochloride (2.0 g; 8 mmol) in methanol (70 mL) was refluxed for 18 hours. Solution was concentrated to dryness. The residue was recrystallized from MeOH to obtain 603 mg (23% yield) of the title compound as a yellow solid, m.p. 223-225° C. Anal. Calcd. for C17H15N3O4: C, 62.76, H, 4.65; N, 12.92. Found: C, 62.67; H, 4.62; N, 13.05. Mass spectrum: (EI; M+) m/z 325. 1H-NMR (DMSO-d6; 400 MHz) δ13.2(broad s, 1H), 8.4 (broad s, 1H), 8.1(dd, 1H), 7.74 (s, 1H), 7.62-7.72 (m, 1H), 7.35 (d 1H), 7.19-7.23 (dd, 1H), 7.17 (s, 1H), 7.0 (d,1H),3.85 (s, 3H), 3.8 ppm (s, 3H).

reactant | 4-nitro-1,2-phenylenediamine | 8 mmol, 1.2 g | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
reactant | methyl-(3,4-dimethoxy)-cinnamoimidate hydrochloride | 8 mmol, 2.0 g | Cl.COC(C=CC1=CC(=C(C=C1)OC)OC)=N
solvent | methanol | 70 mL | CO | CH4O
product | (E)-2-[2-(3,4-Dimethoxyphenyl)-vinyl]-5-nitro-1H-benzoimidazole | 603 mg, 23% yield | COC=1C=C(C=CC1OC)/C=C/C1=NC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C17H15N3O4
